US07888364B2
50 mg of 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)nicotinamide was reacted with 1-methyl-1,4-diazepane via Procedure F. The reaction was evaporated to dryness and purified on reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-6-(4-methyl-1,4-diazepan-1-yl)nicotinamide. MS (Q1) 422 (M)+.

reactant | 6-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)nicotinamide | 50 mg | ClC1=NC=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=C1 | C17H11Cl2N3O
reactant | 1-methyl-1,4-diazepane | CN1CCNCCC1 | C6H14N2
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-6-(4-methyl-1,4-diazepan-1-yl)nicotinamide | ClC1=C(C=C(C=C1)NC(C1=CN=C(C=C1)N1CCN(CCC1)C)=O)C1=NC=CC=C1 | C23H24ClN5O
